US07244843B2
Step C. Preparation of (R)-2-Benzyl-7-methyl-9-ethyl-10-hydroxy-1,2,3,4,11,11a-hexahydro-pyrazino[1,2-b]isoquinolin-6-one
To a degassed mixture of (R)-2-Benzyl-7-methyl-9-bromo-10-hydroxy-1,2,3,4,11,11a-hexahydro-pyrazino[1,2-b]isoquinolin-6-one (45 mg, 0.11 mmol) and Pd(dppf)Cl2 (0.12 g, 0.14 mmol) in dioxane (1.25 mL), 1.1M diethyl zinc in toluene (0.21 mL, 0.22 mmol) was slowly added at 0° C. and heated at reflux for 1 h to give dark brownish reaction mixture. The mixture was then cooled RT and quenched with methanol (10 mL) and filtered off the precipitate and rinsed with more methanol (20 mL). Filtrate was concentrated and purified on prep TLC (SiO2, 95:5, CH2Cl2:MeOH) to give (50 mg, 93%) as a faint yellow oil. MS (ESI) 351 (M+H).

reactant | (R)-2-Benzyl-7-methyl-9-bromo-10-hydroxy-1,2,3,4,11,11a-hexahydro-pyrazino[1,2-b]isoquinolin-6-one | 0.11 mmol, 45 mg | C(C1=CC=CC=C1)N1C[C@@H]2N(C(C=3C(=CC(=C(C3C2)O)Br)C)=O)CC1 | C20H21BrN2O2
reactant | toluene | 0.22 mmol, 0.21 mL | C1(=CC=CC=C1)C | C7H8
solvent | dioxane | 1.25 mL | O1CCOCC1 | C4H8O2
solvent | diethyl zinc | 1.1M | C(C)[Zn]CC
catalyst | Pd(dppf)Cl2 | 0.14 mmol, 0.12 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (R)-2-Benzyl-7-methyl-9-ethyl-10-hydroxy-1,2,3,4,11,11a-hexahydro-pyrazino[1,2-b]isoquinolin-6-one | C(C1=CC=CC=C1)N1C[C@@H]2N(C(C=3C(=CC(=C(C3C2)O)CC)C)=O)CC1 | C22H26N2O2
